US07186734B2
Water (3 ml, 166 mmol) and NaCl (5.3 g, 90.2 mmol) are added to a solution of 2-(1-benzoyl-pentyl)-malonic acid dimethyl ester (25.0 g, 81.7 mmol) in DMSO (150 mL). The mixture is heated at 150° C. for 6 hours. Water (450 mL) is added and the mixture is extracted with EtOAc (4×150 mL). The combined extracts are washed with brine (300 mL), dried (Na2SO4), and evaporated, to provides 3-Benzoyl-heptanoic acid methyl ester as a light yellow oil. LC-MS (M+1) 249. This compound without further purification is used directly to the next step.

reactant | Water | 166 mmol, 3 ml | O | H2O
reactant | NaCl | 90.2 mmol, 5.3 g | [Na+].[Cl-]
reactant | 2-(1-benzoyl-pentyl)-malonic acid dimethyl ester | 81.7 mmol, 25.0 g | COC(C(C(=O)OC)C(CCCC)C(C1=CC=CC=C1)=O)=O | C17H22O5
reactant | Water | 450 mL | O | H2O
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
product | 3-Benzoyl-heptanoic acid methyl ester | COC(CC(CCCC)C(C1=CC=CC=C1)=O)=O | C15H20O3
